US08227504B2
2,5-Dioxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepine-8-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepine-8-carboxylic acid. MS: 476.3 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepine-8-carboxylic acid | O=C1CNC(C2=C(N1)C=C(C=C2)C(=O)O)=O | C10H8N2O4
product | 2,5-Dioxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepine-8-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)NC(=O)C=1C=CC2=C(NC(CNC2=O)=O)C1 | C27H33N5O3
